US07915443B2
(S)-5-({3-[(2-methylbenzoyl)amino]phenyl}ethynyl)-N-[methyl(oxo)phenyl-λ6-sulfanylidene]nicotinamide
In a 4 mL vial, N-(3-ethynylphenyl)-2-methylbenzamide (0.104 g, 0.443 mmol) and (S)-5-bromo-N-[methyl(oxo)phenyl-λ6-sulfanylidene]nicotinamide (0.100 g, 0.295 mmol) were added and dissolved into EtOAc (2 mL) The mixture was then degassed for ˜20 min after which NEt3 (0.141 mL, 1.035 mmol) was added followed by Pd(PPh3)2Cl2 (21.0 mg, 0.030 mmol) and CuI (2.9 mg, 0.016 mmol). The reaction mixture was allowed to stir at 50° C. for 4 hours after which the reaction mixture was partitioned between EtOAc (4 mL) and water (4 mL). The organic extracts were combined, dried over anhydrous Na2SO4 and concentrated. The residue as purified by chromatography (silica gel, gradient elution 25% EtOAc/Hexanes EtOAc). The product containing fractions were concentrated to give the title compound as a solid (121 mg, 83%).

reactant | N-(3-ethynylphenyl)-2-methylbenzamide | 0.443 mmol, 0.104 g | C(#C)C=1C=C(C=CC1)NC(C1=C(C=CC=C1)C)=O | C16H13NO
reactant | (S)-5-bromo-N-[methyl(oxo)phenyl-λ6-sulfanylidene]nicotinamide | 0.295 mmol, 0.100 g | BrC=1C=NC=C(C(=O)N=[S@](C2=CC=CC=C2)(=O)C)C1 | C13H11BrN2O2S
reactant | NEt3 | 1.035 mmol, 0.141 mL | CCN(CC)CC | C6H15N
catalyst | Pd(PPh3)2Cl2 | 0.030 mmol, 21.0 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | CuI | 0.016 mmol, 2.9 mg | [Cu]I
solvent | EtOAc | 2 mL | CCOC(=O)C | C4H8O2
product | (S)-5-({3-[(2-methylbenzoyl)amino]phenyl}ethynyl)-N-[methyl(oxo)phenyl-λ6-sulfanylidene]nicotinamide | 121 mg, 83% | CC1=C(C(=O)NC=2C=C(C=CC2)C#CC=2C=NC=C(C(=O)N=[S@](C3=CC=CC=C3)(=O)C)C2)C=CC=C1 | C29H23N3O3S
